US05250570
Phenoxyacetyl chloride (427 mg, 2.5 mM) was added to a stirred suspension of calcium carbonate (300 mg, 3 mM) and (4-amino-2,6-dimethylphenylsulfonyl)nitromethane (488 mg, 2 mM) in dry tetrahydrofuran (THF; 2.5 mL). The mixture was stirred for 30 minutes during which time carbon dioxide was released. Water (10 mL) and ethyl acetate (30 mL) were then added and the mixture acidified with 2M hydrochloric acid to pH 3. The organic phase was separated and washed with saturated sodium chloride solution (2×10 mL) and then dried (MgSO4). The solvent was evaporated and the residue recrystallised from ethyl acetate. The solid obtained was washed with ether and air dried to give (2,6-dimethyl-4-[2-phenoxyacetamido]phenylsulfonyl)nitromethane as white crystals, having m.p. 166°-167° C. and in 67% yield after recrystallisation from ethyl acetate/hexane; microanalysis, found: C, 54.1; H, 5.1; N, 7.3%; C17H18N2O6S requires: C, 54.0: H, 4.8; N, 7.4%.

reactant | Phenoxyacetyl chloride | 2.5 mM, 427 mg | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | calcium carbonate | 3 mM, 300 mg | C([O-])([O-])=O.[Ca+2]
reactant | (4-amino-2,6-dimethylphenylsulfonyl)nitromethane | 2 mM, 488 mg | NC1=CC(=C(C(=C1)C)S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 mL | O | H2O
product | (2,6-dimethyl-4-[2-phenoxyacetamido]phenylsulfonyl)nitromethane | 67% yield | CC1=C(C(=CC(=C1)NC(COC1=CC=CC=C1)=O)C)S(=O)(=O)C[N+](=O)[O-] | C17H18N2O6S
